US04777172
A solution of m-chloroperbenzoic acid (2.16 g) in dichloromethane (40 ml) was added to a stirred solution of 5-methoxy-2-(5-methyl-6-piperidino-4-pyrimidinylmethylthio)-(1H)-benzimidazole (4.0 g) in dichloromethane (110 ml) cooled to between -40° and -50°. After a further hour at -40°, ammonia was passed through the reaction mixture and the precipitated solid filtered off. The filtrate was stripped, and the residual glass triturated with acetonitrile to give 5-methoxy-2-(5-methyl-6-piperidino-4-pyrimidinylmethylsulphinyl)-(1H)-benzimidazole, 2.66 g, m.p. 87°-89°.

reactant | m-chloroperbenzoic acid | 2.16 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 5-methoxy-2-(5-methyl-6-piperidino-4-pyrimidinylmethylthio)-(1H)-benzimidazole | 4.0 g | COC1=CC2=C(NC(=N2)SCC2=NC=NC(=C2C)N2CCCCC2)C=C1 | C19H23N5OS
reactant | ammonia | N | H3N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 5-methoxy-2-(5-methyl-6-piperidino-4-pyrimidinylmethylsulphinyl)-(1H)-benzimidazole | COC1=CC2=C(NC(=N2)S(=O)CC2=NC=NC(=C2C)N2CCCCC2)C=C1 | C19H23N5O2S
